US07199133B2
101 μl (1.00 mmol) of 4-methylmorpholine are added to a solution of 212 mg (1.00 mmol) of 2-(4-aminophenyl)isothiazolidine 1,1-dioxide, 276 mg (1.00 mmol) of 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-pentanoic acid, 192 mg (1.00 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) and 135 mg (1.00 mmol) of hydroxybenzotriazole hydrate (HOBt) in 1 ml of DMF, and the mixture is stirred at room temperature for 24 hours. The reaction mixture is introduced into water, and the precipitate is filtered off, giving 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-N-[4-(1,1-dioxoisothiazolidin-2-yl)phenyl]valeramide as a colourless solid; ESI 471.

reactant | 4-methylmorpholine | 1.00 mmol, 101 μl | CN1CCOCC1 | C5H11NO
reactant | 2-(4-aminophenyl)isothiazolidine 1,1-dioxide | 1.00 mmol, 212 mg | NC1=CC=C(C=C1)N1S(CCC1)(=O)=O | C9H12N2O2S
reactant | 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-pentanoic acid | 1.00 mmol, 276 mg | CC1=NC(=NO1)C=1C=C(OC(C(=O)O)CCC)C=CC1 | C14H16N2O4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.00 mmol, 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 1.00 mmol, 135 mg | O.OC1=CC=CC=2NN=NC21
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-N-[4-(1,1-dioxoisothiazolidin-2-yl)phenyl]valeramide | CC1=NC(=NO1)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)N2S(CCC2)(=O)=O)CCC)C=CC1 | C23H26N4O5S
